US07332516B2
To an ice-cooled solution of 5-methoxy-2-methylindole (2.5 g, 15.5 mmol) in THF (30 mL) was added n-butyllithium (2.5M solution in hexanes: 6.25 mL, 16.28 mmol) in a dropwise manner. After 20 minutes, ZnCl2 (1M solution in ether; 15.5 mL, 1.0 eq.) was added and the resulting solution stirred at 0° C. for 2 hrs. The solvent was then removed and the residue dissolved in anhydrous toluene (30 mL) to which 2-bromoisobutyryl bromide (1.93 mL, 16.28 mmol) was added and the mixture stirred at ambient temperature for 24 hrs. The solution was partitioned between 1M HCl (100 mL) and EtOAc (100 mL), the organic phase separated, washed with water, dried (MgSO4), filtered and evaporated to dryness. The residue was purified by column chromatography (0 to 25% EtOAc:hexanes) to afford 2.0 g of 2-bromo-1-(5-methoxy-2-methyl-1H-indol-3-yl)-2-methyl-propan-1-one as a yellow solid. 1H NMR (500 MHz, CDCl3) δ 8.52 (1H, s), 7.97 (1H, d, J=2.2 Hz), 7.21 (1H, d, J=8.8 Hz), 6.87 (1H, dd, J=8.8, 2.2 Hz), 3.91 (3H, s), 2.67 (3H, s), 2.13 (6H, s).

reactant | 5-methoxy-2-methylindole | 15.5 mmol, 2.5 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | n-butyllithium | 16.28 mmol, 2.5M, 6.25 mL | C(CCC)[Li]
reactant | 2-bromoisobutyryl bromide | 16.28 mmol, 1.93 mL | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ZnCl2 | 1M, 15.5 mL, 1.0 eq. | [Cl-].[Cl-].[Zn+2]
product | 2-bromo-1-(5-methoxy-2-methyl-1H-indol-3-yl)-2-methyl-propan-1-one | 2.0 g | BrC(C(=O)C1=C(NC2=CC=C(C=C12)OC)C)(C)C | C14H16BrNO2
